US06022969
4-Aminobenzylamine (11.0 g, 90 mmol.) in dichloromethane (30 mL) was cooled to 0° C. and di-tert-butyl dicarbonate (18.65 g, 85 mmol.) was added to the solution and the mixture was allowed to slowly warm to room temperature over twelve hours. Subsequent filtration followed by washing the dichloromethane solution with saturated aqueous ammonium chloride then with saturated aqueous sodium chloride, drying over anhydrous magnesium sulfate, filtration and concentration gave 4-amino-N-tert-butoxycarbonylbenzylamine as a yellow oil. A methanol solution of the aniline was acidified with hydrogen chloride in dioxane (one equivalent) and the hydrochloride salt crystallized by addition of ethyl ether to the acidic solution. Filtration and drying in vacuo provided the hydrochloride salt as a yellow crystalline solid which was guanylated without further purification.

reactant | 4-Aminobenzylamine | 90 mmol, 11.0 g | NC1=CC=C(CN)C=C1 | C7H10N2
reactant | di-tert-butyl dicarbonate | 85 mmol, 18.65 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-amino-N-tert-butoxycarbonylbenzylamine | NC1=CC=C(CNC(=O)OC(C)(C)C)C=C1 | C12H18N2O2
